US08835409B2
Preparation of methyl 4,6-dichloro-3-iodopicolinate
Methyl 3-amino-4,6-dichloropicolinate (1.2 g, 5.4 mmol) was dissolved in concentrated HCl (15 mL), cooled to 5° C., and treated with a solution of sodium nitrite (0.56 g, 8.1 mmol) in 2 ml of water. The reaction mixture was stirred for 20 minutes at 5° C. and then poured carefully into a rapidly stirred mixture of sodium iodide (3.8 g; 25 mmol) in 30 mL water and 30 mL of dichlormethane. After 30 minutes, a dilute solution of sodium bisulfite was added. The dichloromethane phase was separated and washed with water, washed with saturated sodium chloride, dried over sodium sulfate, and concentrated under vacuum. The crude product was purified by flash chromatography (SiO2, hexane/ethyl acetate) to give the title compound as a tan solid (0.60 g, 33%): 82-83° C.; 1H NMR (400 MHz, CDCl3) δ 7.53 (s, 1H), 4.00 (s, 3H); EIMS m/z 331.

reactant | Methyl 3-amino-4,6-dichloropicolinate | 5.4 mmol, 1.2 g | NC=1C(=NC(=CC1Cl)Cl)C(=O)OC | C7H6Cl2N2O2
reactant | sodium nitrite | 8.1 mmol, 0.56 g | N(=O)[O-].[Na+]
reactant | sodium iodide | 25 mmol, 3.8 g | [I-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | HCl | 15 mL | Cl | ClH
solvent | water | 2 ml | O | H2O
solvent | water | 30 mL | O | H2O
solvent | dichlormethane | 30 mL | ClCCl | CH2Cl2
product | methyl 4,6-dichloro-3-iodopicolinate | 0.60 g, 33% | ClC1=C(C(=NC(=C1)Cl)C(=O)OC)I | C7H4Cl2INO2
